US05194441
2-(Pyrid-3-yl)-4-methylbutane-1,2-diol
20 g (0.134 mol) of 3-pyridyl isopropyl ketone and 30.2 g (0.268 mol) of potassium tert-butylate were dissolved in 200 ml of tert-butanol. Thereafter, 37.4 g (0.208 mol) of trimethylsulfonium iodide were added and the mixture was heated at 65° C. for 1.5 hours. The inorganic salts were separated off and the reaction solution was evaporated down, after which 75 ml of half-concentrated H2SO4 were added to the crude product and the mixture was heated at 60°-70° C. for 8 hours. The pH was then brought to 9 with 4N NaOH solution and extraction was carried out with methylene chloride. The organic phase was dried and evaporated down and the product was then purified by chromatography.

reactant | 3-pyridyl isopropyl ketone | 0.134 mol, 20 g | C(C)(C)C(=O)C=1C=NC=CC1 | C9H11NO
reactant | potassium tert-butylate | 0.268 mol, 30.2 g | CC(C)(C)[O-].[K+]
reactant | trimethylsulfonium iodide | 0.208 mol, 37.4 g | [I-].C[S+](C)C
solvent | tert-butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | 2-(Pyrid-3-yl)-4-methylbutane-1,2-diol | N1=CC(=CC=C1)C(CO)(CCC)O | C10H15NO2
